US04073894
Preparation of 2-(4-Methylphenyl)-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione
2-(4-Methylphenyl)-1,2,4-oxadiazolidin-3,5-dione (0.05 mole) dissolved in methanol (100 ml) and aqueous formaldehyde (37% conc.; 0.06 mole) are charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture is heated at reflux, with stirring for a period of about 2 hours. After this time the reaction mixture is stripped of methanol and water, leaving a residue. This residue is dissolved in methylene chloride, and the resulting solution is washed with water. The washed solution is dried over anhydrous magnesium sulfate, filtered and stripped of solvent to yield the desired product 2-(4-methylphenyl)-4-hydroxymethyl-1,2,4-oxadiazolidin- 3,5-dione.

reactant | 2-(4-Methylphenyl)-1,2,4-oxadiazolidin-3,5-dione | 0.05 mole | CC1=CC=C(C=C1)N1OC(NC1=O)=O | C9H8N2O3
reactant | formaldehyde | 0.06 mole | C=O | CH2O
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(4-methylphenyl)-4-hydroxymethyl-1,2,4-oxadiazolidin- 3,5-dione | CC1=CC=C(C=C1)N1OC(N(C1=O)CO)=O | C10H10N2O4
